Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
altered mental status  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ ___ with h/o PE, stroke (left
head of caudate stroke in ___ (confirmed by MRI on ___ c/b
dysphagia, vascular dementia, GERD, and chronic musculoskeletal
chest pain who presents to the ED with altered mental status.  

The son at bedside reports that she has had a few months of
progressively worsening memory loss, hallucinations, and
paranoia. She reportedly stays up all night because she is
concerned that people are stealing her things, and she will try
to speak to animals or people that are not there. She sometimes
becomes agitated and combative during these hallucinations and
will sometimes try to leave the house. Her son reports that she
has not been eating or sleeping well. 

Her son and PCP recently discontinued all of her medications
except omeprazole (donepezil, escitalopram) because they were
concerned these could be contributing to her behavior, and she
was high risk for falls. She was recently seen by her PCP ___
for this behavior and worsening LLE swelling. The doctor at that
time recommended she be brought to the ED for further 
evaluation.
However her son was travelling and was unable to bring her to 
the
ED until today. 

She lives at home with her son, his wife, and children who help
care for the patient.  

In the ED:  
Initial vital signs: T97.1, HR67, BP121/76, RR16, PO2 100% RA  

Exam notable for: 
NAD, Head NC/AT
Bilateral cataracts, PERRLA, 
CTA b/l
Skin w/ some areas of orange discoloration (right palm, left
foot) that are reportedly a tattoo
LLE peripheral edema  

Labs were notable for: 
Wbc 4.4, hgb 11.3, plt 195, 
INR 1.2, 
Cr 0.7, 
UA moderate ___ nitritres/26 WBCs/few bacteria; blood 
and
urine cultures pending  

Studies performed include:  
 - CXR: No pneumonia or acute cardiopulmonary process.  
 - LLE US: No evidence of deep venous thrombosis in the left
lower extremity veins.  
 - CT head w/o contrast: No acute intracranial findings.  

Patient was given:  
 IV CefTRIAXone 1 g  

Vitals on transfer: T97.6, HR65, BP134/90, RR15, PO2100% RA  
 
Upon arrival to the floor, the patient is able to follow 
commands
and listens to her son but otherwise only speaks a couple words
at a time. She has difficulty answering questions.

When asked where she is, she says ___ She does not know
she is in a hospital. Her son reports that she often does not
know where she is; even ___ years ago, when she would go to the
playground, she would get lost and be able to come back on her
own. In the last ___ years, she has often asked to go next door
to see someone even though the person lives in ___. She 
moved
from ___ to the ___ about ___ years ago to live with her son,
because they were concerned that she was unable to care for
herself over there. She was amenable to moving here.

When asked why she is here, she is not sure. Per her son, she is
oriented only to name and would not now the date, season, 
current
president. She does not know how many children she has (but of
note several of her children have passed away). She has no prior
psychiatric or neurologic history but her son does report one
incident that she finds traumatic: her ___+ year old son went
missing about ___ years ago and has not been found. When asked
about her mood, she reports that she is anxious but cannot
explain why. She does not have any pain. She has not been eating
much per her son.

She had a little dysuria in the last day. She has not noticed 
any
pain with bowel movements. She has not had any nausea, vomiting,
or diarrhea.

Her son describes that she has not been able to sleep for 
several
weeks now, which is why he brought her in. He stopped giving her
any and all medications two months ago due to concern that it 
was
worsening her mental status, which has been progressive and
declining gradually over years but more acutely in the last
couple months. She lives with her son, his wife, and two
grandchildren. Her daily routine involves her folding, moving 
and
counting her clothes and belongings all day. Sometimes she
watches TV but she does not usually know what she is watching. 
She usually does not leave the house. She requires assistance
with bathing, as she does not know the difference between the 
hot
and cold faucets. She can brush her teeth on her own. She eats
but does not eat much, she has no issues with swallow. She does
not prepare her own food. She walks without a walker or a cane,
and she has never fallen but she walks very slowly and holds 
onto
side furniture. He describes that she often gets upset and angry
because she is convinced that people are taking her things when
she cannot find them; that is why she spends all her time
counting her belongings.

Of note, she was seen on ___ with Dr. ___ with
behavioral neurology for worsening memory. 
 
Past Medical History:
- PE  
 - Stroke  
 - Vascular dementia  
 - GERD  
 - Chronic musculoskeletal chest pain who is not on
anticoagulation  
 - Dysphagia  
 - ___ edema  
 
Social History:
___
Family History:
 Relative Status Age Problem Onset Comments  
 Sister DIABETES ___  
 Brother HYPERTENSION  

 
Physical ___:
ADMISSION PHYSICAL EXAM:  
 VITALS:  T 97.2 BP 144 / 77 HR 65 RR 18 O2 Sat 100 Ra 
 GENERAL: Alert and interactive. In no acute distress. Has
forehead in palm of her head.  Appears frail with temporal 
muscle
wasting.
 HEENT: NCAT. PERRL, EOMI. 
 NECK: No thyroidomegaly. No cervical lymphadenopathy. No JVD.  
 CARDIAC: Regular rhythm, normal rate. No murmurs.
 LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi 
or
rales. No increased work of breathing. 
 ABDOMEN: Normal bowels sounds, non distended, non-tender to 
deep
palpation in all four quadrants.
GU: No suprapubic tenderness.
 EXTREMITIES: Mild edema bilaterally to mid shin. Pulses 2+ DP
bilaterally
 SKIN: Warm. No rash.  Has dark pigmentation concerning for
venous stasis.
 NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is slow, small steps. Negative Romberg.
Unsteady on feet.  
MENTAL STATUS: Alert, not oriented. Understands questions that
her son asks. She sits quietly at edge of bed and is not 
engaged.

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 2338)
    Temp: 97.8 (Tm 97.8), BP: 128/70 (99-136/65-82), HR: 62
(59-67), RR: 18, O2 sat: 97% (94-99), O2 delivery: RA  
GENERAL: Alert and interactive. In no acute distress. Has
forehead in palm of her head.  Appears frail with temporal 
muscle
wasting.
HEENT: NCAT. PERRL, EOMI. 
NECK: No thyroidomegaly. No cervical lymphadenopathy. No JVD.  
CARDIAC: Regular rhythm, normal rate. No murmurs.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing. 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
GU: No suprapubic tenderness.
EXTREMITIES: Mild edema bilaterally to mid shin. Pulses 2+ DP
bilaterally
SKIN: Warm. No rash.  Has dark pigmentation concerning for
venous stasis.
NEUROLOGIC: Moving all extremities with purpose 
MENTAL STATUS: Alert and oriented x1.  Understands questions 
that
her son asks. She sits quietly at edge of bed and is not 
engaged.
 
Pertinent Results:
ADMISSION LABS:
===============

___ 03:10PM BLOOD WBC-4.4 RBC-4.10 Hgb-11.3 Hct-35.3 MCV-86 
MCH-27.6 MCHC-32.0 RDW-13.0 RDWSD-40.6 Plt ___
___ 03:10PM BLOOD Neuts-60.5 ___ Monos-7.3 Eos-0.5* 
Baso-0.7 Im ___ AbsNeut-2.67 AbsLymp-1.36 AbsMono-0.32 
AbsEos-0.02* AbsBaso-0.03
___ 03:10PM BLOOD Glucose-89 UreaN-10 Creat-0.7 Na-141 
K-4.2 Cl-105 HCO3-25 AnGap-11
___ 03:10PM BLOOD ___ PTT-28.1 ___
___ 03:10PM BLOOD proBNP-37
___ 03:10PM BLOOD Albumin-3.9 Calcium-10.2 Phos-3.3 Mg-1.9
___ 04:19PM URINE Blood-NEG Nitrite-POS* Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD*
___ 04:19PM URINE RBC-2 WBC-26* Bacteri-FEW* Yeast-NONE 
Epi-0

RELEVANT LABS:
==============

___ 03:10PM BLOOD VitB12-511
___ 03:10PM BLOOD TSH-1.4
___ 07:00AM BLOOD HIV Ab-NEG

MICROBIOLOGY:
============
  URINE CULTURE (Final ___: 
      CITROBACTER KOSERI.    >100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             CITROBACTER ___
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

IMAGING:
========
CT Head w/o contrast ___:
No acute intracranial findings.

CXR ___:
No pneumonia or acute cardiopulmonary process.

___ ___:

No evidence of deep venous thrombosis in the left lower 
extremity veins.
 
 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
=====================
Ms. ___ is a ___ with h/o PE, stroke, dysphagia, vascular 
dementia, GERD, and chronic musculoskeletal chest pain presents 
with subacute hallucinations found to have urinary tract 
infection. Seen by psychiatry who believes the hallucinations 
are delirium from urinary tract infection exacerbating her 
baseline of dementia. 

ACUTE ISSUES: 
============= 
# Altered mental status
# UTI: 
Patient presents with worsening of altered mental status, 
dysuria and found to have UA concerning for UTI with culture 
growing pansensitive CITROBACTER KOSERI. She was treated with 3 
days of CTX which was narrowed to Bactrim for 2 additional days. 
Her mental status is further discussed below. 

# Worsening vascular dementia with psychotic features 
# Hx Stroke 
# Cognitive decline: 
Patient with worsening memory loss, along with hallucinations 
and paranoia with insomnia. She had been seen by Cognitive 
Neurology in the past and had trialed donepezil without 
improvement. Lexapro was also tried for concern for 
pseudodementia from depression without improvement. Metabolic 
causes of dementia were ruled out with negative RPR, B12, TSH, 
and HIV. Some concern for ___ Body Dementia given 
hallucinations and bradykinesia but no other parkinsonian 
features. She was seen by psychiatry who believes the 
hallucinations were consistent with delirium iso UTI on top of a 
baseline of dementia. The recommendations were to optimize her 
sleep wake cycle and was discharge on PO trazodone. She was care 
connected with Geriatrics to establish primary care given 
dementia. Her family currently feels safe taking care of her at 
home with her son and daughter in law. 

# Poor PO intake: 
Patient with evidence of wasting and also endorses significant 
weight loss although note that weights have been pretty 
consistent in the 170s over the last ___ years. She was seen by 
nutrition who recommended current diet with ensure x3. Continued 
multivitamin with minerals

# Bilateral ___ edema: 
Son endorses that patient has had increased lower extremity 
edema. No DVT on US. BNP, Albumin and TSH all unremarkable. 
Could be peripheral edema in setting of immobility or venous 
stasis 

CHRONIC ISSUES: 
=============== 
# PE: 
Per report, patient fell ill in ___ on arriving to the 
___ and was dx with a "clot in the lung and an old brain stroke". 
She was maintained on warfarin but then was lost to follow-up. 
Unclear if PE was provoked (may have been flight from ___ 
and MRI shows old stroke in left caudate nucleus. Given 
progressive cognitive decline and frailty on exam (difficulty 
with ambulation), risk of fall likely greater than risk of 
repeat PE. Coumadin discontinued ___, son in agreement. 
Son was counseled on warning signs of DVT/PE. 

# Cataract: 
S/p b/l surgery. Outpatient follow up with ophtho 

# GERD: 
Continued omeprazole 20 mg daily 

# Chronic musculoskeletal chest pain: 
Patient with multi-year hx of chest/back/shoulder/abd pain that 
is not associated with activity and is worse with palpation. 
Depression as contributor. Continued Tylenol prn 

# Dysphagia: 
Has had longstanding dysphagia (occurs predominantly while 
swallowing food. She does have occasional regurgitation) and 
underwent laryngoscopy in ___ which was thought to be 
consistent with GERD vs. Laryngopharyngeal reflux. She also has 
had a history of stroke but unclear what neurologic workup was 
done so unclear if she had residual dysphagia after stroke. She 
had been tolerating her pills and diet while inpatient. 

TRANSITIONAL ISSUES:
=====================
Discharge hgb: 10.6

[] Complete 2 final days of Bactrim for UTI
[] Continue to address family's ability to care for patient's 
progressive dementia; case management might be reaching out as 
outpatient regarding ___ vs elder care services 
[] Follow up swallowing ability; has been okay in the hospital 
[] Follow up with new Geriatrics PCP
[] Follow up with Cognitive Neurology (continuing to hold 
donepezil and Lexapro)
[] Monitor sleep wake cycle patterns on trazodone; family can 
trial melatonin over the counter if they so desire

#CODE: Full code 
#CONTACT: Name of health care proxy: ___ 
Relationship: Son 
Phone number: ___ 
 
___ on Admission:
None
 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals [Vitamins and Minerals]  1 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*0 
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 2 Days 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*4 Tablet Refills:*0 
3.  TraZODone 25 mg PO QHS 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth at bedtime 
Disp #*15 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Urinary tract infection
 
SECONDARY DIAGNOSIS
=====================
Vascular dementia with psychotic features
Venous stasis 
Gastroesophageal reflex disease 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Ms ___, 

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital with significant trouble sleeping and 
developing hallucinations of small animals 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You had a urine culture done which showed a urinary tract 
infection.
- We think the hallucinations were worsened by the infection, 
but this is also likely to be worsening of your dementia. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please follow up with your new primary care doctor - a 
geriatrician who specializes in patients with dementia. 
- Please follow up with your Cognitive Neurologist who 
specializes in dementia
- Please complete the last two days of antibiotics. 
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___